US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (378 mg), 1-phenylpiperazine (810 mg) and 2-butanone (15 ml) was stirred with heating under reflux for 12 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (150 ml×2). The organic layer was washed with a 10% aqueous solution of citric acid (100 ml), dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(4-phenyl-1-piperazinyl)oxazole was obtained as an oil (168 mg, 33%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 378 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | 1-phenylpiperazine | 810 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2-butanone | 15 ml | CC(CC)=O | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(4-phenyl-1-piperazinyl)oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N1CCN(CC1)C1=CC=CC=C1 | C29H30ClN3O3
